US05541229
Tert.butyl 4'-[(2-n-butyl-4-methyl-7-hydroxy-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate
Prepared in analogous manner to Example 57 from tert.butyl 4'-[(2-n-butyl-4-methyl-7-benzyloxy-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate and hydrogen in the presence of palladium hydroxide on carbon in methanol.

reactant | tert.butyl 4'-[(2-n-butyl-4-methyl-7-benzyloxy-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C(=CC=C2C)OCC2=CC=CC=C2 | C37H40N2O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | palladium hydroxide on carbon | [OH-].[OH-].[Pd+2]
product | Tert.butyl 4'-[(2-n-butyl-4-methyl-7-hydroxy-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C(=CC=C2C)O | C30H34N2O3
